Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
colonoscopy (___) 

 
History of Present Illness:
___ history of atrial fibrillation on Eliquis and hypertension
who presents as transfer from ___ with melena.

Patient underwent colonoscopy on ___ which was notable 
for
polypectomy x3, 1 site requiring clipping due to oozing.  He was
then discharged home restarted his Eliquis ___. His bowel
movement on ___ was brown but required some straining. 
His bowel movement on ___ noted was brown-black in color.
Since then, he has continued to have dark stools, becoming more
black and tarry in nature. He also noted one BM that was very
dark with a streak of red in the toilet. Other than the change 
in
color of his stools, he was completely asymptomatic at home. He
denies any dizziness, lightheadedness, palpitations, chest pain,
shortness of breath, abdominal pain, n/v, or hematemesis. Given
the ongoing nature of his dark stools, he called the o/c GI
physician at ___ who recommended he present to the ED. He went
to ___ and was transferred to ___ for further
evaluation. Of note, initial lab work at ___ was notable for 
Hgb
of 14.

Of note, the patient reports 30lbs unintentional weight loss 
over
the past year.

In the ED:
The patient arrived late on ___. His initial hemoglobin was
13.1.  KUB was unremarkable. GI was consulted, and the patient
was started on IV PPI and bowel prep was initiated for scope on
___.  Repeat colonoscopy was notable for cecal site with
adherent clot, which was thought to be the source of bleeding. 
The patient received 3 endoclips to the site and was admitted 
for
further monitoring.

Initial vital signs were notable for:
Temperature 96.5 heart rate 80 blood pressure 112/70 respiratory
rate 16 satting 96% on room air

Exam notable for:
Gen: well developed male, NAD, talkative
HEENT: NC/AT
CV: Irregular rhythm, normal rate. No appreciable murmurs.
Pulm: CTAB. Nonlabored respirations.
Abd: soft, nondistended, nontender to palpation.
Rectal: no frank blood. guaiac positive.
Ext: no lower extremity edema

Labs were notable for:
Hemoglobin 13.1 INR 1.4

Studies performed include:
-Chest x-ray did not reveal free air
-Colonoscopy with cecal site with adherent clot, received clip 
x3

Patient was given:
Moviprep
Colchicine
metoprolol succinate 25mg
lorazepam 0.25 mg PO
Zofran 4mg IV
febuxostat 80mg PO

Consults:
GI

Upon arrival to the floor, the patient is hungry but feels well.
His last bloody BM was while taking prep, which he notes at that
time was a very deep blackish red. He has not had any BMs since
the colonoscopy. He denies any fevers, chills, abdominal pain,
lightheadedness, dizziness, palpitations.

REVIEW OF SYSTEMS:
Notable for 30 lbs unintentional weight loss over past year.
Other per HPI. Otherwise negative.
 
Past Medical History:
-COLON POLYP   
-HYPERTENSION   
-DIVERTICULOSIS   
-ATRIAL FIBRILLATION 
-ADHD
-CHOLECYSTECTOMY   
-HERNIA REPAIR 
 
Social History:
___
Family History:
No family history of colon cancer or GI malignancy that he is
aware of.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Irregular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill wnl. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM: 
========================
VITALS: 24 HR Data (last updated ___ @ 2322)
    Temp: 98.4 (Tm 98.4), BP: 102/69 (102-120/67-85), HR: 67
(67-72), RR: 18, O2 sat: 98% (97-100), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRLA, MMM.
CARDIAC: irregularly irregular. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill wnl. No rash.
NEUROLOGIC: A&Ox3, moving all 4 extremities with purpose 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 11:45PM BLOOD WBC-4.8 RBC-3.86* Hgb-13.1* Hct-39.7* 
MCV-103* MCH-33.9* MCHC-33.0 RDW-14.3 RDWSD-54.4* Plt ___
___ 11:45PM BLOOD Neuts-61.8 Lymphs-17.1* Monos-9.8 
Eos-9.8* Baso-1.3* Im ___ AbsNeut-2.97 AbsLymp-0.82* 
AbsMono-0.47 AbsEos-0.47 AbsBaso-0.06
___ 11:45PM BLOOD ___ PTT-29.6 ___
___ 11:45PM BLOOD Glucose-94 UreaN-29* Creat-1.2 Na-142 
K-4.8 Cl-100 HCO3-29 AnGap-13
___ 06:50AM BLOOD Calcium-10.4* Phos-3.7 Mg-2.5

EGD REPORT (___) 
====================
Impressions: 
-Cecal EMR site was identified which had a large adherent clot 
suggestive of recent bleeding. No active bleeding was seen. 
(Injection, Endoclip). 
-Ascending colon polypectomy site was visualized with no signs 
of active bleeding. There was a visible post polypectomy ulcer. 
(Endoclip). 
-Moderate diverticulosis of the descending colon and sigmoid 
colon. 
-No other sources of bleeding identified. 
Recommendations: 
-Cecal EMR site is the most likely source of bleeding. No active 
bleeding, s/p successful application of 3 hemoclips. 
-Recommend repeat colonoscopy in 6 months to assess EMR site and 
polypectomy of previously seen small left sided polyps. 
-Recommend observation inpatient overnight. If no signs of any 
more bleeding, may discharge home. 
-Continue to hold anticoagulation for 48 hours after which it 
may be resumed.

IMAGING: 
========
CXR (___) 
The lungs are well inflated and clear.  No focal consolidations. 
 No pulmonary edema. 7 mm nodule projecting over the left lower 
lung, which should be followed up with a chest CT on a 
nonemergent basis.  Unchanged enlargement of cardiac silhouette. 
 No pleural effusion.  No pneumothorax.  No pneumoperitoneum. 
  
IMPRESSION: 
1. No pneumoperitoneum. 
2. Cardiomegaly. 
3. 7 mm nodule projecting over the left lower lung, which should 
be followed 
up with a chest CT on a nonemergent basis. 

DISCHARGE LABS: 
===============
___ 05:35AM BLOOD WBC-4.3 RBC-3.43* Hgb-11.4* Hct-35.5* 
MCV-104* MCH-33.2* MCHC-32.1 RDW-14.0 RDWSD-53.8* Plt ___
___ 05:10AM BLOOD ___ PTT-26.3 ___
___ 05:35AM BLOOD Glucose-101* UreaN-17 Creat-0.9 Na-139 
K-4.3 Cl-105 HCO3-26 AnGap-8*
___ 05:10AM BLOOD Calcium-9.5 Phos-2.7 Mg-2.1
 
Brief Hospital Course:
SUMMARY STATEMENT: 
==================
___ history of atrial fibrillation on Eliquis and hypertension 
s/p recent polypectomy on ___ who presents as transfer from 
___ with melena, now s/p colonoscopy on ___ with 3 
clips to cecal EMR site and ascending colon polypectomy site. 

ACUTE ISSUES:
=============
#Melena, acute LGIB s/p colonoscopy with clip x4
Patient had colonoscopy on ___ which was notable for a 
blood clot over his prior cecal EMR site which was likely the 
source of his recent GI bleed though with no active bleeding 
seen- 3 clips were placed over this site with epinephrine 
injection to prevent any future bleeding. A postpolypectomy 
ulcer was also seen in the ascending colon with no signs of 
active bleeding and an endoclip was placed there as well. He was 
monitored for 2 nights to ensure no further signs of GI 
bleeding. While admitted, he was noted to have a Hgb drop from 
13.6->11.6 after his colonoscopy, but then with a stable Hgb of 
11.4 on discharge. He had no further episodes of melena, though 
did not have any BMs after his colonoscopy. We held his Eliquis 
on admission and for 48 hours after his colonoscopy with plan to 
restart on ___. He should have a repeat colonoscopy in 6 months 
to reassess his EMR site and for polypectomy of previously seen 
small left sided polyps. 

#weight loss 
#7 mm lung nodule 
Patient reports a 30 lbs weight loss over the past year, though 
he does report that he was not eating well while his wife was 
hospitalized from ___ of this year before passing 
away. He was noted incidentally to have a 7mm nodule over the 
LLL on CXR with possible concern for malignancy (though only 10 
pack year smoking history). He should have a noncontrast CT 
chest as an outpatient to further characterize with 7mm lung 
nodule and continue with proper age-appropriate cancer screening 
as an outpatient. 
- NEEDS CT SCAN CHEST TO EVAL LUNG NODULE.  this was reviewed in 
detail with patient and communicated with PCP as well.

CHRONIC ISSUES:
===============
#AFib, ___ 3 
Rate: continued on Metoprolol succinate 25mg daily
Rhythm: No agents
AC: held apixaban as above x48 hours in the setting of an acute 
lower GI bleed; plan to restart on ___ 

#HTN
-Continued home metoprolol as above
-Continued home losartan
-Held home Lasix and spironolactone in the setting of his 
colonoscopy prep and his GIB. This was restarted on discharge 

#Anxiety
-Continued home lorazepam

#Gout
-Continued home febuxostat
-Held home colchicine given no active gout flare and GIB

#ADHD
-Continued home methylphenidate

TRANSITIONAL ISSUES: 
====================
[]Please get a noncontrast CT chest to better evaluate the 7mm 
lung nodule incidentally noted chest X-ray 
[]Patient was instructed to restart Eliquis on ___ of ___, 
held for 48 hours after colonoscopy 
[]Should have a repeat colonoscopy in 6 months to reassess his 
EMR site and for polypectomy of previously seen small left sided 
polyps
[]Reported 30 lb weight loss over past year. Please ensure 
proper age-appropriate cancer screening

#CODE: FULL (confirmed)
#CONTACT: ___ (friend) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Calcium Carbonate 500 mg PO QID:PRN heartburn 
3. Colchicine 0.6 mg PO DAILY 
4. Famotidine 20 mg PO BID:PRN heartburn 
5. Furosemide 40 mg PO QAM 
6. Furosemide 20 mg PO QPM 
7. LORazepam 0.25 mg PO BID:PRN anxiety 
8. Losartan Potassium 100 mg PO QHS 
9. MethylPHENIDATE (Ritalin) 10 mg PO BID 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Spironolactone 25 mg PO DAILY 
12. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
3.  Colchicine 0.6 mg PO DAILY  
4.  Famotidine 20 mg PO BID:PRN heartburn  
5.  Furosemide 20 mg PO QPM  
6.  Furosemide 40 mg PO QAM  
7.  LORazepam 0.25 mg PO BID:PRN anxiety  
8.  Losartan Potassium 100 mg PO QHS  
9.  MethylPHENIDATE (Ritalin) 10 mg PO BID  
10.  Metoprolol Succinate XL 25 mg PO DAILY  
11.  Spironolactone 25 mg PO DAILY  
12. HELD- Apixaban 5 mg PO BID  This medication was held. Do not 
restart Apixaban until the morning of ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
==================
post-polypectomy lower gastrointestinal bleed 

SECONDARY DIAGNOSES: 
====================
atrial fibrillation
hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
-You were having black sticky stools which was concerning for 
bleeding from your intestines. 

What did you receive in the hospital?  
-You underwent a colonoscopy which showed that you had blood 
clot over the site where they removed a polyp a few weeks ago 
during a prior colonoscopy. This suggests that you had a recent 
bleed from this area, though there were no signs of active 
bleeding seen. You had clips placed over this area to prevent 
any further bleeding. You were also seen to have an ulcer at 
another site where you had a polyp remove which is a normal 
process of healing after a polyp removal; this did not show any 
signs of bleeding and a clip was placed at that site to prevent 
any possible future bleeding. 
-You were monitored for any more signs of bleeding afterwards 
and we held your blood thinner Eliquis (apixaban) for 48 hours 
to decrease your risk of rebleeding. 
-Your blood counts were stable while you were here which was 
reassuring that you had no more bleeding. 
-You did not have any bowel movements while here to show that 
there was no more bleeding but we were reassured by your blood 
counts. 
-We felt you were stable after 2 nights of monitoring and 
discharged you home.

What should you do once you leave the hospital?  
-Please resume your Eliquis on the morning of ___.
-Please make sure to get a CT scan of your lungs to work up the 
lung nodule that we found.
-Please monitor your bowel movements at home. It may be normal 
for you to have a small streaks of black in your first bowel 
movement from blood that remained in your intestines after the 
colonoscopy. If you continue to have large black sticky bowel 
movements or large amounts of blood in your bowel movements - 
please call your doctor. If you are having any lightheadedness, 
dizziness, chest pain, trouble breathing or any other symptoms 
that concern you please go to the nearest emergency room. 
-Please follow up with your primary care office as scheduled 
below 

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___